US06353006B1
To a solution of 2-(2-methyl-4-nitrophenylimino)-1,3-thiazolidine (prepared in a manner analogous to that described in Method C1a; 0.084 g, 0.35 mmol) in CH2Cl2 (5 mL) was added propionyl chloride (0.033 g, 0.35 mmol) and Et3N (0.049 mL, 0.35 mmol). The mixture was allowed to stir at room temp for 1 h, then was diluted with CH2Cl2 (40 mL). The resulting solution was sequentially washed with H2O (10 mL) and a saturated NaCl solution (10 mL), dried (Na2SO4), and concentrated under reduced pressure. The residue was purified by preparative TLC (40% EtOAc/hex) to give 2-(2-methyl-4-nitrophenylimino)-3-propanoyl-1,3-thiazolidine (0.036 g, 35%): FAB-MS m/z 294 ((M+H)+).

reactant | 2-(2-methyl-4-nitrophenylimino)-1,3-thiazolidine | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SCCN1 | C10H11N3O2S
reactant | propionyl chloride | 0.35 mmol, 0.033 g | C(CC)(=O)Cl | C3H5ClO
reactant | Et3N | 0.35 mmol, 0.049 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-methyl-4-nitrophenylimino)-3-propanoyl-1,3-thiazolidine | 0.036 g, 35% | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SCCN1C(CC)=O | C13H15N3O3S
